US04481357
7-amino-3[(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl]-3-cephem-4-carboxylic acid (7-ACA-TD)
A suspension of 40 g (0.30 mole) of 2-mercapto-5-methyl-1,3,4-thiadiazole (TD) in 3.15 liters of water, with 30 g of boric acid and 30.4 ml (≃0.217 mole) of triethylamine was heated to 70/72° C. While the mixture was being vigorously stirred, at the same temperature, one 40 g shot (0.147 mole) of 7-amino-3-acetoxymethyl-3-cephem-4-carboxylic acid (92%) was added.

reactant | 2-mercapto-5-methyl-1,3,4-thiadiazole | 0.30 mole, 40 g | SC=1SC(=NN1)C | C3H4N2S2
reactant | boric acid | 30 g | B(O)(O)O | BH3O3
reactant | triethylamine | 0.217 mole, 30.4 ml | C(C)N(CC)CC | C6H15N
reactant | 7-amino-3-acetoxymethyl-3-cephem-4-carboxylic acid | 0.147 mole | NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O | C10H12N2O5S
solvent | water | 3.15 liters | O | H2O
product | 7-amino-3[(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl]-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O | C11H12N4O3S3
